US08791123B2
N-cyclopropyl-5-(2-(2-ethyl-5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
The compounds listed in Table D were prepared by the method described in Example 181 or 182, by reacting (R)-5-(2-(5-fluoro-2-methylpyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation O) or (R)-5-(2-(2-ethyl-5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation Q) with an appropriate amine starting material in the presence of an amide coupling reagent (e.g. EDCI/HOBt) and an organic base (e.g. TEA) in an appropriate solvent (e.g. DCM).

reactant | (R)-5-(2-(5-fluoro-2-methylpyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC=1C=C(C(=NC1)C)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C17H16FN5O2
reactant | (R)-5-(2-(2-ethyl-5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | C(C)C1=NC=C(C=C1[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O)F | C18H18FN5O2
reactant | EDCI HOBt | CCN=C=NCCCN(C)C.C=1C=CC2=C(C1)N=NN2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-cyclopropyl-5-(2-(2-ethyl-5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | C1(CC1)NC(=O)C=1C=NN2C1N=C(C=C2)N2C(CCC2)C=2C(=NC=C(C2)F)CC | C21H23FN6O
